Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C+:1]([C:2](=[C-:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])[H:10])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10],20.37885953723351
[C:1]([C@@:2]1([H:10])/[C:4](=[N:6]/[H:13])[O:5]1)([H:7])([H:8])[H:9].[O:3]([H:11])[H:12]>>[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[N:6]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],5.189103260251805
[N:1](=[C:2]=[C:7]([N:3]=[N:4][C:6](=[O:5])[H:9])[H:10])[H:8]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],30.388110104141298
[C-:6]#[O+:7].[C:1]([H:8])([H:9])([H:10])[H:13].[C:2](=[O:3])=[C:4]([O:5][H:12])[H:11]>>[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10],53.3362164683987
[H:10][H:12].[O:1](/[C:2](=[C:3](/[C@@:4]([O:5][H:14])([C:6]#[C:7][H:15])[H:13])[H:11])[H:9])[H:8]>>[O:1]([C:2]([C:3]([C@@:4]([O:5][H:14])([C:6]#[C:7][H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],69.024023838039
[C:1](=[C:4]([H:9])[H:10])([H:5])[H:6].[C:2](=[O:3])([H:7])[H:8]>>[C:1]1([H:5])([H:6])[C:2]([H:7])([H:8])[O:3][C:4]1([H:9])[H:10],54.97474400084112
[C:1]([C:2]1=[C:3]([H:11])/[C:4](=[N:5]/[H:12])[O:6][C:7]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([H:11])[C:3]/[C:4](=[N:5]/[H:12])[O:6][C:7]1([H:13])[H:14])([H:8])([H:9])[H:10],77.633200013469
[n:1]1([H:6])[c:2]([H:7])[n:3][c:4]([H:8])[n:5]1>>[N:1](/[C:2](=[N:3]\[H:8])[H:7])([N+:5]#[C-:4])[H:6],79.8522836111856
[O:1]=[C:2]1[C:3]([H:6])([H:7])[N:4]([H:8])[C:5]1([H:9])[H:10]>>[O:1]([C:2]1=[C:3]([H:7])[N:4]([H:8])[C:5]1([H:9])[H:10])[H:6],79.23525936873429
[N:1]([C@@:2]([C:3]([O:4][H:12])([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[C:2](=[C:3]([H:10])[H:11])([C:5]#[N:6])[H:9].[N:1]([O:4][H:12])([H:7])[H:8],89.90399051406557
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([H:11])[C:4](=[C:6]=[C:7]([C:3]([H:12])([H:13])[H:14])[H:15])[O:5]1)([H:8])([H:9])[H:10],93.2915773784812
[O:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[N:5]([C+:6]([O-:7])[H:14])[H:13])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8],85.1415798612671
[C-:6]#[O+:7].[C:1]([C:2]([C:3]([H:12])([H:13])[H:17])([C:4](=[C:5]([H:15])[H:16])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],53.40509881025321
[C:1]([H:8])([H:9])([H:10])[H:11].[C:2]([C:3]([H:12])([H:13])[H:14])[C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])[H:11])([H:8])([H:9])[H:10],1.7331694049894963
[N:1]1([H:7])[C@:2]([C:3]#[C:4][H:10])([H:9])[C:5][N:6]1[H:8]>>[N:1]([C@@:2]([C:3]#[C:4][H:10])([C:5]#[N:6])[H:9])([H:7])[H:8],40.4856260259117
[C:1]([C:2]([O:4][C:3]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5]([C:6]([C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16]>>[C:1]([C:2]([C:3]([O:4][C:5]([C:6]([C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],20.61022891566809
[C:1]([O+:2]=[C:3]([N:4]([C-:5]([H:11])[H:12])[H:10])[H:9])([H:6])([H:7])[H:8]>>[C:1]([O:2]/[C:3](=[N:4]/[C:5]([H:10])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8],32.743404292844595
[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]=[C:6]=[O:7])[H:11])([H:8])([H:9])[H:10].[H:15][H:16]>>[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10],60.7254634092472
[C:1]([O:2][C:3]([C:4](=[C:5]([H:14])[H:15])[C:6]([O:7][H:19])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:16]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]([O:7][H:19])([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],79.6720848330425
[C:1]([O:2][C:3]([C:4]1([H:12])[C-:5]([H:13])[C:6]([H:15])([H:16])[C+:7]1[H:17])([H:11])[H:14])([H:8])([H:9])[H:10]>>[C:1]([O:2][C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],33.42722258277222
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10].[C:5]([C:6]([H:18])([H:19])[H:20])[O:7][H:21]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],16.4060637243345
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:1]([O+:2]=[C:3]1[O:4][C@:6]([O:7][H:9])([H:13])[C:5]1([H:11])[H:12])([H:8])[H:10],101.082938463721
[C:1]([O:2][C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1]([O:2][C:3]([C:4]([H:9])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:14],88.36337092639099
